US06987116B2
A mixture of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[2,3-b]pyridine-5-carbonitrile (220 mg, 0.50 mmol), 3-ethynylpyridine (72 mg, 0.7 mmol), 20 mg of tetrakis(triphenylphosphine)palladium(0) and copper iodide (6 mg, 0.22 mmol) in 7 mL of benzene and 2 mL of triethylamine is heated at reflux for 5 hours. The reaction mixture is cooled to room temperature and a solid appears. The solid is triturated with hot ethyl acetate, filtered, washed with hexanes and dried under vacuum to provide 100 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(pyridin-3-ylethynyl)thieno[2,3-b]pyridine-5-carbonitrile as a tan solid, mp 191° C. (decomposition); 1H NMR (DMSO-d6+TFA) δ 3.88 (s, 3H), 7.37 (s, 1H), 7.43 (s, 1H), 7.78 (s, 1H), 7.85 (bs, 1H), 8.16 (s, 1H), 8.39 (bs, 1H), 8.54 (s, 1H), 10.02 (bs, 1H); MS 451.0 (M+H)+.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[2,3-b]pyridine-5-carbonitrile | 0.50 mmol, 220 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)SC(=C2)I | C15H8Cl2IN3OS
reactant | 3-ethynylpyridine | 0.7 mmol, 72 mg | C(#C)C=1C=NC=CC1 | C7H5N
solvent | benzene | 7 mL | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.22 mmol, 6 mg | [Cu](I)I
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(pyridin-3-ylethynyl)thieno[2,3-b]pyridine-5-carbonitrile | 100 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)SC(=C2)C#CC=2C=NC=CC2 | C22H12Cl2N4OS
